US04837345
Preparation of 6-ethoxycarbonyloxy-2H-pyran-3(6H)-one
12 g of 6-hydroxy-2H-pyran-3(6H)-one was dissolved in 100 ml of methylene chloride, and the solution was cooled to 0° C. Then, 11.4 g of ethyl chlorocarbonate was added, and a solution comprising 10.6 g of triethylamine and 20 ml of methylene chloride was dropwise added thereto. The mixture was stirred for 3 hours, and the reaction mixture was poured into ice water and extracted with methylene chloride. The solvent was distilled off under reduced pressure, and the residue was subjected to distillation under reduced pressure to obtain 12.3 g (yield: 63%) of the above-identified compound.

reactant | 6-hydroxy-2H-pyran-3(6H)-one | 12 g | OC1C=CC(CO1)=O | C5H6O3
reactant | ethyl chlorocarbonate | 11.4 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 10.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-ethoxycarbonyloxy-2H-pyran-3(6H)-one | 12.3 g, yield: 63% | C(C)OC(=O)OC1C=CC(CO1)=O | C8H10O5
